US08871756B2
2-(4,6-Dichloroquinolin-2-yl)-N,N-dimethyl-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxamide
The mixture of 2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxylic acid (135 mg, 0.35 mmol), dimethylamine hydrochloride (34.2 mg, 0.42 mmol), triethylamine (105 mg, 1.05 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (159 mg, 0.42 mmol) and 5 mL of dichloromethane was stirred at room temperature overnight under nitrogen. The reaction was diluted with ethyl acetate (20 mL), washed with water and dried over sodium sulfate. The solvent was removed in vacuo and the residue was purified by column chromatography to give 133 mg of product as a white solid. (yield was 92%). MS obsd. (ESI+) [(M+H)+] 414.

reactant | 2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxylic acid | 0.35 mmol, 135 mg | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CC2=C(CCC1)C=C(C=C2)C(=O)O | C20H16Cl2N2O2
reactant | dimethylamine hydrochloride | 0.42 mmol, 34.2 mg | Cl.CNC
reactant | triethylamine | 1.05 mmol, 105 mg | C(C)N(CC)CC | C6H15N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.42 mmol, 159 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(4,6-Dichloroquinolin-2-yl)-N,N-dimethyl-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxamide | 133 mg, yield was 92% | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CC2=C(CCC1)C=C(C=C2)C(=O)N(C)C | C22H21Cl2N3O
